US07838528B2
1.2) 1,3,4,6-Tetramethanesulfonyloxyhexane
Methanesulfonyl chloride (30.4 mL) was added to a solution of hexane-1,3,4,6-tetraol (8.3 g) in pyridine (150 mol) at −45° C. After a reaction time at ice-bath temperature of three hours, the mixture was poured into hydrochloric acid (4 N). The resulting precipitate was filtered off with suction. The product with a molecular weight of 462.54 (C10H22O12S4) was obtained in this way; MS (ESI): 463 (M+H+).

reactant | Methanesulfonyl chloride | 30.4 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hexane-1,3,4,6-tetraol | 8.3 g | C(CC(C(CCO)O)O)O | C6H14O4
reactant | pyridine | 150 mol | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 4 N | Cl | ClH
product | 1,3,4,6-Tetramethanesulfonyloxyhexane | CS(=O)(=O)OCCC(C(CCOS(=O)(=O)C)OS(=O)(=O)C)OS(=O)(=O)C | C10H22O12S4
